US07361763B2
Step 4: Synthesis of 3-(2-Methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine
Into a 5 mL Personal Chemistry microwave reaction vial were added 5-Bromo-3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (0.102 g, 0.220 mmol), Bis(pinacolato)diboron (0.123 g, 0.483 mmol), 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)-dichloride dichloromethane adduct (9.1 mg, 0.01 mmol) and anhydrous sodium acetate (55 mg, 0.67 mmol) and anhydrous DMF (1 mL). The resulting mixture was irradiated in a Personal Chemistry Optimizer at 140° C. for 60 min and then diluted with EtOAc and extracted 4× with water. The organic phase was treated with brine, dried (Na2SO4), filtered and concentrated. The crude product was purified by flash silica gel chromatography using a gradient of ethyl acetate in hexanes to afford 90.9 mg (81%) of the title compound a white powder. 1H-NMR (500 MHz, CDCl3) δ 8.79 (d, J=1.0 Hz, 1H), 8.32 (d, J=1.0 Hz, 1H), 8.11 (d, J=5.5 Hz, 2H), 7.94 (d, J=3.0 Hz, 1H), 7.50 (m, 1H), 7.35 (t, J=7.5 Hz, 1H), 7.25 (d, J=7.5 Hz, 2H), 7.05 (t, J=7.2 Hz, 1H), 7.01 (d, J=7.2 Hz, 1H), 3.85 (s, 3H), 2.35 (s, 3H), 1.31 (s, 12H); MS: m/z 505.1 [MH+].

reactant | 5-Bromo-3-(2-methoxy-phenyl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.220 mmol, 0.102 g | BrC=1C=C2C(=NC1)N(C=C2C2=C(C=CC=C2)OC)S(=O)(=O)C2=CC=C(C=C2)C | C21H17BrN2O3S
reactant | Bis(pinacolato)diboron | 0.483 mmol, 0.123 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | sodium acetate | 0.67 mmol, 55 mg | C(C)(=O)[O-].[Na+]
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(2-Methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 90.9 mg, 81% | COC1=C(C=CC=C1)C1=CN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C | C27H29BN2O5S
